Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ACE Inhibitors / Sulfa (Sulfonamide Antibiotics) / Tetanus 
Vaccines and Toxoid
 
Attending: ___
 
Chief Complaint:
Nonhealing ulcer
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with history of PVD, HTN, poorly healing wound was sent for 
nonhealing ulcer with positive wound culture of pseudomonas. 
Patient has had the wound since a traumatic injury in ___. 
Since that time the wound has progressed, however, it has 
worsened more rapidly over the last few weeks and has included 
increased redness, pain, and swelling. Patient was referred for 
admission by outpatient general surgery for dermatology 
evaluation, IV antibiotics, and consideration for wound 
debridement. 

 
Past Medical History:
PVD
Essential hypertension
Diverticulosis
Cataract
Chronic headaches
Meningioma s/p VP shunt

 
Social History:
___
Family History:
Not relevant to this illness/reason for hospitalization.
 
Physical Exam:
VITALS:
___ 0723 Temp: 97.9 PO BP: 149/75 HR: 79 RR: 18 O2 sat: 94% 
O2 delivery: RA 

GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round and reactive to light
ENT: Moist oropharynx without visible lesion, erythema or 
exudate
CV: Heart regular rate and rhythm, no murmur. Radial and DP 
pulses 2+ bilaterally
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen is soft, non-distended, non-tender. Normal bowel 
sounds present.
GU: No suprapubic fullness or tenderness 
MSK: Neck supple, moves all extremities
SKIN: Right medial malleolus ulcer, non-bleeding with white 
granulation-type tissue and no obvious purulent drainage. Distal 
right lower extremity has a confluent and bright erythematous 
color and is tender. 
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, some mild memory 
impairment noted on admission not appreciated at present. 
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 06:30AM BLOOD WBC-5.9 RBC-4.12 Hgb-13.4 Hct-41.4 
MCV-101* MCH-32.5* MCHC-32.4 RDW-12.3 RDWSD-45.4 Plt ___
___ 05:10PM BLOOD ___ PTT-26.2 ___
___ 06:30AM BLOOD Creat-0.7 Na-144 K-4.4 HCO3-27 AnGap-12
___ 05:00PM BLOOD Lactate-1.2

Venous study Impression:
1. Patent right great saphenous and small saphenous vein.
2. Significant reflux is noted along the great saphenous vein of 
the 6 seconds and a prominent varicose veins seen connecting to 
the great saphenous vein in the proximal calf. This is amenable
to endovascular treatment to treat the ulcer.
 
Brief Hospital Course:
___ years-old female with history of PVD, HTN, and poorly healing 
wound was sent for nonhealing ulcer with positive wound culture 
of pseudomonas.

Patient's wound was determined to be likely venous stasis ulcer 
in the setting of peripheral vascular disease. ID was consulted 
who could not rule out cellulitis, initially. Given Pseudomonas 
positive wound culture ID recommend ___ days of IV antibiotics 
on Cefepime 2g IV Q12H, followed by topical therapy and wound 
culture as outlined by dermatology. Patient was seen by vascular 
surgery who reviewed the vascular studies and recommended 
outpatient follow up for consideration of endovenous 
intervention. Patient  instructed to continue gentamicin wound 
dressing of ACE with eventual transition to compression 
stockings as patient can
tolerate. Patient educated to elevate the leg as possible. 

Assessment, hospital course, and discharge plans were discussed 
with patient and family who expressed understanding and agree 
with discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
3. Losartan Potassium 50 mg PO DAILY 
4. Donepezil 5 mg PO QHS 
5. Nortriptyline 10 mg PO QHS 
6. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
7. Travatan 0.004% Ophth Soln  (*NF*) 1 drop Other BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain  
2.  Gentamicin 0.1% Cream 1 Appl TP BID 
RX *gentamicin 0.1 % Apply to wound Twice daily Refills:*0 
3.  Donepezil 5 mg PO QHS  
4.  Losartan Potassium 50 mg PO DAILY  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Nortriptyline 10 mg PO QHS  
7.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  
8.  Travatan 0.004% Ophth Soln  (*NF*) 1 drop Other BID  
9.  Zolpidem Tartrate 10 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Venous stasis ulcer; peripheral vascular disease
Possible Cellulitis
Essential hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
- Apply topical gentamicin cream to the lesion
- Apply xeroform to the ulcerated lesion
- Gentle overlying compression with ACE bandages or kerlix
from toes up to knee. Eventuallly transition to compression
stockings as patient can tolerate. 
- Avoid wet to dry dressings.
- Elevate the leg above the level of the heart as often as
possible.

Follow with vascular surgery as scheduled.
 
Followup Instructions:
___